Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicidal ideation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male, rising college senior, 
living with his parents in ___, with no past psychiatric 
history and no past medical history self presented to the 
emergency department on the night of ___ with his mother
with suicidal ideation without plan. Psychiatry was consulted 
for safety
evaluation and management.

Per patient, has felt like he has struggled with depression 
since
high school. Patient transferred from ___ to
___ in ___. Reports that since the
move to ___ his mood has progressively gotten worse. Has
told himself frequently "just give it another month, things will
get better" but has become hopeless as his mood has continued to
decline. Patient reports that he has felt isolated and alone
since moving to ___, not forming any meaningful
relationships while their with anyone who "cares" about him. 
Over
past few months patient has often missed class, has isolated
himself in his apartment, and had stopped cleaning his apartment
to the point where he was afraid he had rats at a certain point.

He stayed in ___ during the summer months. Over the past 
month, patient's mood has continued to decline to the point 
where he has been having frequent passive SI, describing them as 
thoughts that he would be better off dead and
life isn't worth living. He reports that at one point around
___ he was feeling so low that he drafted a short suicide
note in his phone describing how alone he felt and how he just
"didn't want to wake up" and that he didn't want "anyone to
pretend to miss me". [During intervies on the inpatient unit Mr. 
___ revised this statement to say that this letter was 
drafted 4 months ago, not currently.] Patient decided to take a 
leave from school
and returned home to his parents in ___ around ___ with no
plans to return to ___ to finish school. Since returning
home, patient has had increasingly intrusive suicidal thoughts.
On day of presentation, patient reported that he began thinking 
through possibility of what means he could use to end his life 
which was very
distressing to him so he told his mother, and agreed to be
brought to the hospital. 

In terms of stressors, as previously mentioned, patient has felt
very isolated and alone while in ___. He also reports that
he has had feelings of lack of purpose as he feels like his life
has had no sense of direction, as he has just been moving from
place to place without forming any meaning relationships. 
Patient
has also been very concerned for his younger brother's well 
being
over the past year. Apparently his brother suffers from low 
mood,
unclear what his diagnosis is, but has a history of suicide
attempts and psychiatric hospitalizations. His brother has been
going through a lot over this past year and the patient has felt
a lot of guilt being so far away from him. Patient also feels a
lot of guilt over the idea of "letting his parent's down" after
they sacrificed to pay ___ of ___ tuition for him to go to
___.
 
Past Medical History:
#Medical
- Denies

#Psychiatric
- Past diagnoses: Never formally diagnosed, yet has always felt 
he has had depression
- Hospitalizations: Denies
- Psychiatrist: Denies
- Therapist: Saw a therapist 3 times back in ___ 
- Medication and ECT trials: Denies
- Self-injury/Suicide attempts: Denies
- Harm to others: Denies
- Trauma: Denies
 
Social History:
SUBSTANCE USE HISTORY

- EtOH: ___ drinks per week 
- Tobacco: 1 pack/week
- Cannabis: Reported daily smoking to the emergency room staff, 
but stated 3x per week smoking to the inpatient unit staff. 
- Illicits: Cocaine every ___ months

FORENSIC HISTORY

- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY

Per Dr. ___: Born and raised in ___, ___.
Grew up with both parents in the home, both parents still
married. Middle child, has one older brother (___) and one 
younger
brother (___). Very close with younger brother, feels sense of
responsibility for him. Had a "normal" childhood with strict, 
but
supportive, parents. Played lacrosse in high school and into
early college on a scholarship. Studied ___ at
___. Transferred last year to ___ and studied ___ with an emphasis on
___. Wants to pursue a career ___ men___, hopes to
move to ___ to pursue this in ___. Worked in a ___ back in ___, hoping to get a job at a ___ in
___ in the near future. Not spiritual or religious. Denies
access to weapons.
 
Family History:
#Psychiatric
- Brother suffers from low mood, pt unclear on diagnosis. Has a
history of SA and history of psychiatric hospitalizations. 
- Father suffers from frequent periods of very low moods. 
 
Physical Exam:
Vital Signs:
- ___ pm: T 98.5 HR 56 BP 113/57 RR 16 O2 99% RA 

GENERAL
- HEENT: normocephalic, atraumatic; moist mucous membranes,
oropharynx clear, supple neck; no scleral icterus
- Cardiovascular: regular rate and rhythm, S1/S2 heard.
- Pulmonary: no increased work of breathing; lungs clear to
auscultation bilaterally; no wheezes/rhonchi/rales.
- Abdominal: non-distended, no tenderness to palpation in all
quadrants.
- Extremities: warm and well-perfused, no edema of the limbs, no
calf tenderness, no clubbing.
- Skin: no rashes or lesions noted.

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: normal bulk and tone bilaterally; no abnormal 
movements,
no tremor; strength ___ throughout.
- Sensory: no deficits to fine touch throughout
- DTRs: deferred
- ___: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing.

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Oriented to person, time, place, situation
- Executive function: not tested
- Memory: ___ registration; ___ spontaneous recall after 5 min;
long-term grossly intact.
- Fund of knowledge: intact to last 5 presidents
- Calculations: $1.75 = 7 quarters
- Abstraction: "Don't judge a book by its cover" = don't judge a
person or situation by your first impression.
- Visuospatial: R index to L ear intact
- Language: fluent ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: man appearing stated age, well-groomed ___ hair; wearing hospital gown, in no apparent
distress
- Behavior: sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
- Attitude: irritable but engaged; gives unemotive and
understated answers to most questions.
- Mood: "Bad"
- Affect: restricted, dysphoric, angry; mood-congruent. 
- Speech: normal rate and volume; mildly flattened prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: 
     - Safety: Denies SI, no intent to hurt himself on the unit.
Denies HI.   
     - Delusions: no evidence of paranoia.
     - Obsessions/Compulsions: no evidence based on current
encounter
     - Hallucinations: denies AVH, not appearing to be attending
to internal stimuli
- Insight/judgment: poor/poor
 
Pertinent Results:
CBC (although Plt slightly decreased at 147) and BMP wnl
Negative UTox and STox
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At the time of expiration, the patient 
was not deemed to be at risk of harm to self/others due to 
improved insight, improved willingness to follow up with a 
mental healthcare provider, improved willingness to engage in 
interview with his treatment team and his future orientation 
toward starting a career in ___, so the patient was 
discharged.  He was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.

2. PSYCHIATRIC:

#Major depressive disorder
Admitted for inpatient psychiatric hospitalization for 
diagnostic clarification, medication management, 
psychotherapeutic intervention, collaboration with outpatient 
providers, and aftercare coordination. Recommended individual, 
group, milieu and occupational therapy although patient did not 
participate in groups. He was not started on scheduled 
medications. He received hydroxyzine 25mg PO Q6H PRN anxiety and 
Ramelteon 8mg PO QHS PRN insomnia. He did not feel as though 
either medication was particularly effective and plans to follow 
up with his outpatient provider about whether to continue taking 
hydroxyzine. He plans to continue using his home melatonin PRN 
insomnia. He declined discussion of an antidepressant 
medication. 

The patient was initially forth coming in interviews with the 
medical and psychiatric staff in the emergency room but grew 
angry and irritable as he waited
through the weekend for an inpatient psychiatric opening. Upon 
admission to the unit he was rejecting of care and refused to 
engage with providers other than to complain about his 
treatment. Over the ensuing days he was amenable to some 
conversations about his experience in the emergency room and 
learning about the available outpatient resources.  He continued 
to be socially isolative, appear depressed and withdrawn and was 
irritable. He denied current suicidal ideation and denied that 
he had endorsed suicidal thoughts to the emergency room staff. 
Collateral, as provided to the inpatient unit, from his mother 
indicated he did share with her that he had thoughts of suicide, 
but did not have any plans and did not want to act on such 
thoughts. She felt it was a breakthrough that he asked to come 
to the ER because he has never asked for help with his 
depression before. She felt that the experience in the hospital 
was unfortunately negative, but that the family was eager to 
have him home and help support him with starting therapy. On the 
day of discharge Mr. ___ was presenting with improved 
social interactions. He was awake in the morning for breakfast 
and was agreeable with talking to the unit psychiatrists and 
social worker. He allowed us to have contact with his mother and 
he reached out to a therapist with whom he scheduled an 
appointment for the week after discharge. He continued to denies 
suicidal thoughts and was future oriented towards working at a 
local ___ and eventually starting a job in fashion. We 
discussed medications
and recommended step-down to a partial hospital program, patient 
declined both.  We discussed that if suicidal thoughts were to 
recur again he could return to the emergency room and/or contact 
a suicide hotline. 

3. SUBSTANCE USE DISORDERS:
#Nicotine
Motivational interviewing was provided. Patient encouraged to 
reduce smoking. Provided with prescription for nicotine patch on 
discharge.

#Cannabis
Motivational interviewing was provided. Patient encouraged to 
reduce use. Given he has been using it for sleep, he was open to 
using CBD to avoid THC's psychoactive effects.

4. MEDICAL
- No acute or chronic medical issues

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
often did not participate in groups. He also was reluctant to 
engage with occupational therapists on the unit.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
- Patient refused to allow staff to contact his parents 
initially. However, on day of discharge, was open to having Team 
speak w/ his mother about his hospitalization and discharge 
plan.

#) INTERVENTIONS
- Medications: hydroxyzine PRN, Ramelteon PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___, MD to initiate 
therapy and ongoing medication evaluation; recommended PHP and 
gave patient contact list
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Motivational interviewing
-Guardianships: None

RISK ASSESSMENT & PROGNOSIS

On admission patient had risk factors including male gender, 
Caucasian race, age, single, social withdrawal, hopelessness, no 
outpatient treatment team, insomnia, lack of purpose, and 
nicotine / cannabis use. We established outpatient treatment, 
taught coping skills, and encouraged cessation of nicotine and 
cannabis. On discharge his protective factors include 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, and no active SI. Overall, we feel 
that while he would benefit from prolonged inpatient treatment 
and further medication evaluation, in the setting of his ___ expiring, he does not meet involuntary commitment criteria, 
and thus was discharged. He would benefit from a step down to a 
partial hospital program which he declined but this 
recommendation was discussed with his mother and they were 
provided with program contact numbers. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nicotine Patch 14 mg/day TD DAILY nicotine withdrawal 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 patch once a day Disp 
#*14 Patch Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.

Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - Independent.

-Appearance: Sitting in TV room alone, adequate grooming

-Behavior/Attitude: Cooperative, good eye contact

-Mood: "Hopeful" "Excited" Discussing plans for his future e.g. 
moving to ___ to pursue ___ and taking online classes

-Affect: Euthymic

-Speech: Normal rate, normal volume

-Thought process: Linear

-Thought Content: Does not appear to be responding to internal 
stimuli; Denies SI/HI

-Insight: Fair

-Judgment: Fair

 

Cognition:

-Wakefulness/alertness: Awake, alert

-Attention: Not formally assessed; able to follow conversation

-Orientation: AOx3

-Memory: Not formally assessed; grossly intact given ability to 
recall recent and past events

-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please follow up on our recommendation to establish care with 
an outpatient psychiatrist and/or therapist.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___